US07994185B2
N-{2-fluoro-3-[5-(2-{[2-(4-morpholinyl)ethyl]amino}-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in example 300 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide (110 mg, 0.211 mmol), [2-(4-morpholinyl)ethyl]amine (137 mg, 1.056 mmol) in 1,4-dioxane (2 mL), the title compound was obtained as a white foam (35 mg, 25.6%. 1H NMR (400 MHz, DMSO-d6) ppm 1.62-1.83 (m, 2H), 2.01 (dd, J=12.76, 2.15 Hz, 2H), 2.35-2.47 (m, 7H), 3.23-3.32 (m, 2H), 3.47 (td, J=11.56, 1.89 Hz, 2H), 3.57 (t, J=4.42 Hz, 4H), 3.93 (dt, J=9.35, 2.27 Hz, 2H), 5.81-6.11 (m, 1H), 6.64 (s, 1H), 7.13 (t, J=5.31 Hz, 1H), 7.24 (d, J=5.56 Hz, 2H), 7.44 (dt, J=9.66, 3.76 Hz, 1H), 7.79 (s, 1H), 8.09 (d, J=5.30 Hz, 1H), 8.23 (s, 1H), 10.32 (d, J=1.01 Hz, 1H); MS (ESI): 615.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | 0.211 mmol, 110 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F | C22H18ClFN4O4S2
reactant | [2-(4-morpholinyl)ethyl]amine | 1.056 mmol, 137 mg | N1(CCOCC1)CCN | C6H14N2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-{2-fluoro-3-[5-(2-{[2-(4-morpholinyl)ethyl]amino}-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCCN1CCOCC1)C1CCOCC1)NS(=O)(=O)C1=COC=C1 | C28H31FN6O5S2
